US04080192
b) Preparation of ethyl-2-(2,4-dichlorophenylhydrazono)-1-piperidineacetate.
A solution of 17.7 parts of 2,4-dichlorophenylhydrazine in methylene chloride was added dropwise to the above reaction mixture containing [1-(2-ethoxy-2-oxoethyl)piperidin-2-ylidene]methyloxonium fluorosulfate while keeping the temperature of the reaction less than 30° C. After the addition was completed the reaction was stirred for an additional 30 minutes. The reaction mass was then poured into 1000 parts of water. The pH was raised to 12.0 with 20% potassium hydroxide solution. The crude product was extracted with three successive portions of 1000 parts of methylene chloride. The organic extracts of the product were dried over anhydrous sodium sulfate. The solution of the product was filtered to remove the drying agent. The solvent was removed at a reduced pressure of 50-300 mm with a rotary evaporator leaving the crude product which was used in the next step without further purification.

reactant | 2,4-dichlorophenylhydrazine | ClC1=C(C=CC(=C1)Cl)NN | C6H6Cl2N2
reactant | [1-(2-ethoxy-2-oxoethyl)piperidin-2-ylidene]methyloxonium fluorosulfate | S(=O)(=O)([O-])F.C(C)OC(CN1C(CCCC1)=C[OH2+])=O
reactant | water | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl-2-(2,4-dichlorophenylhydrazono)-1-piperidineacetate | C(C)OC(CN1C(CCCC1)=NNC1=C(C=C(C=C1)Cl)Cl)=O | C15H19Cl2N3O2
